Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
agitation, weakness, ETOH intoxication
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ male that came in initially with
acute alcohol intoxication after his wife called ___. 

Patient was in his usual state of health until 5 days ago when 
he
started drinking quite heavily following an verbal altercation
with a acquaintance that upset him. At baseline, he has 2 drinks
of gin and tonic daily, but has been drinking more hard alcohol
than usual over the last 3 days. He has apparently also bene
having some dizziness and generalized weakness as well recently.
Apparently he was belligerent at home on ___ evening, and his
wife called ___, and he was brought in by EMS.

In the ED: 
- Vitals stable: afebrile, normotensive, satting well on RA.
- He was acutely intoxicated initially, has since sobered. Exam
atraumatic. Normal fingerstick blood glucose, no evidence of
trauma.
- He was given folic acid, thiamine, MV, diazepam 10mg PO, 1L
fluid bolus, and PO guaifenesin.
- ___ saw the patient and noted orthostatic during transition 
from
sit to stand, SBP 140-110 and patient was symptomatic. They
recommended rehab, however he refused initially. At that time,
Case management saw the patient who was declined any increase in
home services or aid at that time. He stated that he preferred 
to
go home. Patient was seen by social work to arrange for elder
services. He was planning to leave AMA from the ED.
- After that, he went to the bathroom at that time felt dizzy 
and
sat down on the floor.  Did not have a fall or head trauma. A CT
head and C-spine were obtained did not show any acute process.
Patient spoke with wife and she convinced him to pursue rehab. 
He will need insurance authorization which cannot occur until
___. 
- ___ medicine was asked to admit for management of
generalized weakness, (?)EtOH abuse with possible withdrawal, 
and
placement.

Upon my evaluation, patient describes events as noted above. He
is a poor historian. He is not able to quantify how many drinks
and total EtOH he had over the several days prior to admission
but admits that "it was a lot". He is amendable to rehab
placement. He denies chest pain, SOB, abd pain, ___ pain or
swelling, jaundice, abdominal distention. He states he is "not a
heavy drinker". Denies any h/o alcohol withdrawal. He endorses
generalized weakness, occasional dizziness on standing and
walking. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
Osteoarthritis
Hypertension
Hyperlipidemia
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization
 
Physical Exam:
T97.9, HR76, BP121/71, RR16, satting 100% on RA
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric
PSYCH: pleasant, appropriate affect

Physical Exam:
Vitals: temp 97.3; BP 131/79; HR 87; RR 18; O2 95% RA
Gen: elderly man sitting comfortably in a chair, NAD
HEENT: EOMI, ___, MMM
Lungs: CTAB, no wheezing or rhonci appreciated
Heart: RRR, S1 and S2
Abdomen: soft, NT, ND, +BS
Ext: warm, well perfused, no ___ edema
Skin: no rashes appreciated
Psych: normal mood and affect
Neuro: AOx3, no focal deficits. Moving all extremities 
 
Pertinent Results:
Admission Labs:

___ 10:15AM BLOOD WBC-5.7 RBC-4.26* Hgb-13.7 Hct-40.9 
MCV-96 MCH-32.2* MCHC-33.5 RDW-12.0 RDWSD-42.2 Plt ___
___ 10:15AM BLOOD Glucose-83 UreaN-11 Creat-0.7 Na-146 
K-4.3 Cl-105 HCO3-23 AnGap-18
___ 07:11AM BLOOD VitB12-371
___ 07:11AM BLOOD TSH-1.2
___ 07:11AM BLOOD 25VitD-39

Imaging:
Imaging:
CT C-spine ___:
1. No acute fracture traumatic malalignment.
2. Severe multilevel degenerative changes of the cervical spine
as described
above.

CT head ___: No acute intracranial process.

Micro:
Urine culture ___- <10k

Discharge Labs:

___ 07:11AM BLOOD WBC-5.4 RBC-4.37* Hgb-14.9 Hct-41.4 
MCV-95 MCH-34.1* MCHC-36.0 RDW-11.8 RDWSD-41.2 Plt ___
___ 07:11AM BLOOD Glucose-102* UreaN-9 Creat-0.7 Na-142 
K-4.2 Cl-101 HCO3-28 AnGap-13
 
Brief Hospital Course:
Mr. ___ is a ___ male with the past medical history 
and
findings noted above who

ACUTE/ACTIVE PROBLEMS:
# Deconditioning/generalized debility
# Orthostatic hypotension
# Falls
 He presented with weakness and in falls in the setting of 
increased EOTH use. Noted to have orthostatic hypotension in the 
ED. Differential of his falls would include mechanical falls, 
orthostatic hypotension (likely contributing), verses structural
heart disease (less likely), cardiac conduction abnormality, 
vasovagal, volume depletion, neurologic, metabolic, 
hypoglycemic, psychogenic/conversion. Given ETOH intoxication 
and orthostatic vitals suspect falls related to dehydration and 
EOTH use. CT head and C-spine negative for any acute 
abnormalities. He was given IVF with improvement of symptoms. 
Repeat orthostatic vitals ___ were normal. B12, TSH and Vit D 
levels WNL. He was seen by ___ who recommended rehab which he was 
discharged to. 

#gastritis
# EtOH abuse
# Possible EtOH withdrawal- Concern for ETOH withdrawal given 
evidence of hypertension, tachycardia, agitation. He received 
diazepam in ED with
improvement in symptoms. He was monitored further on CIWA which 
was discontinued as he was not scoring. He was counseled on ETOH 
cessation. He reported some abdominal pain. Given ETOH use may 
be due to underlying gastritis. He was prescribed protonix with 
improvement of symptoms which he was discharged on. 

# Hyperlipidemia- Conitnued home atorvastatin 40mg daily

Transitional Issues:
[] encourage ETOH cessation
[] monitor PO intake and orthostatic vitals

Greater than 30 min spent on discharge planning

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Vitamin D ___ UNIT PO DAILY 
4. Calcium Carbonate 500 mg PO DAILY 

 
Discharge Medications:
1.  Benzonatate 100 mg PO BID:PRN cough  
2.  Cepacol (Sore Throat Lozenge) 1 LOZ PO Q4H:PRN sore throat   

3.  Pantoprazole 40 mg PO Q24H  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 40 mg PO QPM  
6.  Calcium Carbonate 500 mg PO DAILY  
7.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
alcohol intoxication
orthostatic hypotension
gastritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted with alcohol intoxication and unstable gait. 
You were found to be dehydrated which improved with IV fluids. 
You were seen by physicial therapy who recommended rehab which 
you were discharged to.

Best of luck in your recovery,
Your ___ care team
 
Followup Instructions:
___